US04532136
Preparation of 4,4,4-trichloro-3-hydroxy-1-(4-pyridyl)-but-2-ene-1-one.
5 g (0.018 moles) of this substance were treated with sulfuric acid as described in Example 1b. Obtained were 4.2 g (95% of the theoretical) of 4,4,4-trichloro-1-(4-pyridyl)-but-2-ene-1-one, in the form of brown crystals. Decomposition point 150° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4,4,4-trichloro-1-(4-pyridyl)-but-2-ene-1-one | ClC(C=CC(=O)C1=CC=NC=C1)(Cl)Cl | C9H6Cl3NO
product | 4,4,4-trichloro-3-hydroxy-1-(4-pyridyl)-but-2-ene-1-one | ClC(C(=CC(=O)C1=CC=NC=C1)O)(Cl)Cl | C9H6Cl3NO2
